US05332757
Using an analogous procedure to that described in Example 68, 7-[4-(2,2,4-trimethyl-1,3-dioxolan-4-yl)thien-2-ylthio]chroman-4-one was reacted with hydroxylamine hydrochloride to give (E)-7-[4-(2,2,4-trimethyl-1,3-dioxolan-4-yl)thien-2-ylthio]chroman-4-one oxime in 65% yield as a gum.

reactant | 7-[4-(2,2,4-trimethyl-1,3-dioxolan-4-yl)thien-2-ylthio]chroman-4-one | CC1(OCC(O1)(C)C=1C=C(SC1)SC1=CC=C2C(CCOC2=C1)=O)C | C19H20O4S2
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-7-[4-(2,2,4-trimethyl-1,3-dioxolan-4-yl)thien-2-ylthio]chroman-4-one oxime | 65% yield | CC1(OCC(O1)(C)C=1C=C(SC1)SC1=CC=C2/C(/CCOC2=C1)=N/O)C | C19H21NO4S2
